US08012956B2
To a solution of 4-cyano-2-methyl-3-(methyloxy)benzoic acid (80 mg, 0.42 mmol) in DMSO:ethanol (1:4, 1 mL) was added 1N aqueous sodium hydroxide (1 mL), and hydrogen peroxide (30% wt. in water, 1 mL). The mixture was stirred at room temperature for 72 hours, then partitioned between 1N aqueous sodium hydroxide and ethyl acetate and the organic layer discarded. The pH of the aqueous portion was adjusted to 7 using 1N aqueous hydrochloric acid. The aqueous portion was extracted several times using ethyl acetate, and the combined organic portion was washed with brine then dried over anhydrous sodium sulfate. Filtration and concentration afforded 55 mg, 0.26 mmol (63%) of 4-(aminocarbonyl)-2-methyl-3-(methyloxy)benzoic acid. 1H NMR (400 MHz, d6-DMSO): 7.77 (br s, 1H), 7.60 (br s, 1H), 7.54 (d, 1H), 7.41 (d, 1H), 3.72 (s, 3H), 2.41 (s, 3H). MS (EI) for C10H9NO3: 190 (M−H).

reactant | 4-cyano-2-methyl-3-(methyloxy)benzoic acid | 0.42 mmol, 80 mg | C(#N)C1=C(C(=C(C(=O)O)C=C1)C)OC | C10H9NO3
reactant | sodium hydroxide | 1N, 1 mL | [OH-].[Na+]
reactant | hydrogen peroxide | 1 mL | OO | H2O2
solvent | DMSO ethanol | 1 mL | CS(=O)C.C(C)O
product | 4-(aminocarbonyl)-2-methyl-3-(methyloxy)benzoic acid | 0.26 mmol, 55 mg, 63% | NC(=O)C1=C(C(=C(C(=O)O)C=C1)C)OC | C10H11NO4
